US08461179B1
A mixture of N-(3-(2-chloro-4-fluoro-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide (33 mg, 0.065 mmol) in MeCN (3 mL) was treated with 0.1N HCl (0.650 mL, 0.065 mmol), frozen and lyophilized. The material was treated with Et2O, the solid collected via filtration and dried to afford N-(3-(2-chloro-4-fluoro-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide hydrochloride (17 mg, 47% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.82 (s, 1H), 9.16 (s, 1H), 8.75 (s, 1H), 8.69 (s, 1H), 8.53 (s, 1H), 8.22 (d, J=8.6 Hz, 1H), 7.93 (s, 1H), 7.56 (d, J=11.0 Hz, 1H), 7.42 (d, J=8.0 Hz, 2H), 7.26 (t, J=7.7 Hz, 2H), 6.97 (t, J=7.3 Hz, 1H), 3.71 (m, 1H), 2.15 (s, 3H), 1.56 (d, J=7.0 Hz, 6H); MS (ESI) m/z: 508.2 [M+H]+.

reactant | N-(3-(2-chloro-4-fluoro-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide | 0.065 mmol, 33 mg | ClC1=C(C=C(C(=C1)F)NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(C)=O)C(C)C)=O | C26H23ClFN5O3
reactant | HCl | 0.065 mmol, 0.1N, 0.650 mL | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | MeCN | 3 mL | CC#N | C2H3N
product | N-(3-(2-chloro-4-fluoro-5-(3-phenylureido)phenyl)-1-isopropyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide hydrochloride | 17 mg, 47% yield | Cl.ClC1=C(C=C(C(=C1)F)NC(=O)NC1=CC=CC=C1)C=1C(N(C2=CC(=NC=C2C1)NC(C)=O)C(C)C)=O | InChI=1S/C26H23ClFN5O3.ClH/c1-14(2)33-23-12-24(30-15(3)34)29-13-16(23)9-19(25(33)35)18-10-22(21(28)11-20(18)27)32-26(36)31-17-7-5-4-6-8-17;/h4-14H,1-3H3,(H,29,30,34)(H2,31,32,36);1H
